US06660753B2
In a similar fashion, 3-(2-pyridyl)-5-(3-bromo-5-fluorophenyl)-1,2,4-oxadiazole (30 mg, 0.093 mmol), pyridine-4-boronic acid (17.1 mg, 0.093 mmol), and Pd(PPh3)4 (10.4 mg, 0.0093 mmol) in a solution of and ethylene glycol dimethyl ether (1 mL) and 2M sodium carbonate (1 mL) was heated in a sealed vial at 100° C. for 1 hour. Standard work up and silica gel chromatography using a gradient of 50% ethyl acetate in hexane to 100% ethyl acetate afforded 2 mg (7%) of 3-(2-pyridyl)-5-(3-fluoro-5-(4-pyridyl)phenyl)-1,2,4-oxadiazole: 1H-NMR (CDCl3), δ (ppm): 8.88 (d, 1H), 8.79 (d, 2H), 8.40 (s, 1H), 8.25 (d, 1H), 8.06 (md, 1H), 7.90 (td, 1H), 7.60 (m, 3H), 7.50 (ddd, 1H).

reactant | 3-(2-pyridyl)-5-(3-bromo-5-fluorophenyl)-1,2,4-oxadiazole | 0.093 mmol, 30 mg | N1=C(C=CC=C1)C1=NOC(=N1)C1=CC(=CC(=C1)F)Br | C13H7BrFN3O
reactant | pyridine-4-boronic acid | 0.093 mmol, 17.1 mg | N1=CC=C(C=C1)B(O)O | C5H6BNO2
reactant | ethylene glycol dimethyl ether | 1 mL | COCCOC | C4H10O2
reactant | sodium carbonate | 2M, 1 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | hexane | CCCCCC | C6H14
catalyst | Pd(PPh3)4 | 0.0093 mmol, 10.4 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(2-pyridyl)-5-(3-fluoro-5-(4-pyridyl)phenyl)-1,2,4-oxadiazole | 2 mg, 7% | N1=C(C=CC=C1)C1=NOC(=N1)C1=CC(=CC(=C1)C1=CC=NC=C1)F | C18H11FN4O
